US04487930
A solution of 20.0 g of 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine in 60 ml of 2-propanol was heated to reflux and 6 ml of concentrated hydrochloric acid was added slowly. An exothermic reaction took place and a white precipitate formed immediately. The mixture was refluxed for 30 minutes and then cooled. The solid was separated by filtration, washed thoroughly with 2-propanol and then dried at 50° C. under reduced pressure to give 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine hydrochloride hydrate.

reactant | 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | 20.0 g | N1(CCCC1)CCNC1=NN2C(C=3CCCCC13)=NN=C2 | C15H22N6
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | 2-propanol | 60 ml | CC(C)O | C3H8O
product | 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine hydrochloride hydrate | O.Cl.N1(CCCC1)CCNC1=NN2C(C=3CCCCC13)=NN=C2 | InChI=1S/C15H22N6.ClH.H2O/c1-2-6-13-12(5-1)14(19-21-11-17-18-15(13)21)16-7-10-20-8-3-4-9-20;;/h11H,1-10H2,(H,16,19);1H;1H2
